US07091214B2
1-[3-(7-Bromo3-nitroquinolin-4-ylamino)propyl]pyrrolidin-2-one was treated according to the methods described in Parts B, C, and D of Examples 152–156. 3-Methoxypropionyl chloride was used in Part C, and triethylamine (1.3 equivalents) was added to the reaction mixture. The crude product obtained in Part D was purified by flash chromatography on silica gel (eluting sequentially with 100:0 and 92.5:7.5 chloroform:methanol) followed by recrystallization from acetonitrile. The crystals were washed with acetonitrile and diethyl ether and dried in a vacuum oven at 60° C. to provide 1-{3-[7-bromo-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}pyrrolidin-2-one as a light grey solid.

reactant | 1-[3-(7-Bromo3-nitroquinolin-4-ylamino)propyl]pyrrolidin-2-one | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCN1C(CCC1)=O | C16H17BrN4O3
reactant | 3-Methoxypropionyl chloride | COCCC(=O)Cl | C4H7ClO2
reactant | triethylamine | 1.3 equivalents | C(C)N(CC)CC | C6H15N
product | 1-{3-[7-bromo-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}pyrrolidin-2-one | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCN3C(CCC3)=O)CCOC | C20H23BrN4O2
